US05945438
(1) Synthesis of 2-methylthio-2,2',4'-trifluoroacetophenone [Compound (2b-1)]
To a 20 ml solution of 0.5 g (2.5 mmol) of 2',4'-difluoro-2-(methylthio)acetophenone [Compound (2a-1)] in 1,2-dichloroethane, 1.1 g (3.8 mmol) of N-fluoro-2,4,6-trimethylpyridinium triflate ("Onoda Florinate FP-T300", trade name; product of Chichibu Onoda Co., Ltd.) were added at room temperature, followed by stirring at the same temperature for 12 hours. The reaction mixture was added to n-hexane. The insoluble matter so precipitated was filtered off. The insoluble matter was then washed with ethyl ether, followed by combination with the hexane layer. The layers so combined were washed successively with water and saturated saline, followed by drying over anhydrous magnesium sulfate. The solvent was then distilled off under reduced pressure, whereby 0.50 g of the title Compound (2b-1) was obtained in the form of a light yellow oil (yield: 91.7%).

reactant | 2',4'-difluoro-2-(methylthio)acetophenone | 2.5 mmol, 0.5 g | FC1=C(C=CC(=C1)F)C(CSC)=O | C9H8F2OS
reactant | N-fluoro-2,4,6-trimethylpyridinium triflate | 3.8 mmol, 1.1 g | [O-]S(=O)(=O)C(F)(F)F.F[N+]1=C(C=C(C=C1C)C)C
reactant | n-hexane | CCCCCC | C6H14
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 2-methylthio-2,2',4'-trifluoroacetophenone | 0.50 g | CSC(C(=O)C1=C(C=C(C=C1)F)F)F | C9H7F3OS
